US07737145B2
A solution of methyl 4-[[[2-(4-morpholinyl)ethyl][2-[4-[[4-(2-oxazolyl)phenyl]methyl]phenoxy]ethyl]amino]methyl]benzoate (0.22 g, 4 mmol) in methanol (13 mL) was stirred as a 1.2 N aqueous solution of sodium hydroxide (3 mL) was added. The reaction was stirred for 17 h and concentrated. Purification of the aqueous mixture after acidification on reverse phase HPLC using a gradient of acetonitrile in water (plus 0.1% TFA) gave 0.12 g of 4-[[[2-(4-morpholinyl)ethyl][2-[4-[[4-(2-oxazolyl)phenyl]methyl]phenoxy]ethyl]-amino]methyl]benzoic acid; 1H NMR (400 MHz, DMSO-d6) δ 8.22 (s, 1H), 7.97 (m, 4H), 7.48 (d, 2H), 7.38 (m, 3H), 7.18 (d, 2H), 6.82 (d, 2H), 4.03 (t, 2H), 3.96 (s, 2H), 3.88 (s, 2H), 3.54 (m, 4H), 2.86 (t, 2H), 2.68 (t, 2H), 2.42 (m, 2H), 2.36 (m, 4H) ppm.

reactant | methyl 4-[[[2-(4-morpholinyl)ethyl][2-[4-[[4-(2-oxazolyl)phenyl]methyl]phenoxy]ethyl]amino]methyl]benzoate | 4 mmol, 0.22 g | N1(CCOCC1)CCN(CCOC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1OC=CN1)CC1=CC=C(C(=O)OC)C=C1 | C33H37N3O5
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
solvent | methanol | 13 mL | CO | CH4O
product | 4-[[[2-(4-morpholinyl)ethyl][2-[4-[[4-(2-oxazolyl)phenyl]methyl]phenoxy]ethyl]-amino]methyl]benzoic acid | 0.12 g | N1(CCOCC1)CCN(CCOC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1OC=CN1)CC1=CC=C(C(=O)O)C=C1 | C32H35N3O5
